2102-08-19 08:57:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 EKG - At [**2102-8-19**] 12:02 AM
 MULTI LUMEN - START [**2102-8-19**] 01:40 AM
 ARTERIAL LINE - START [**2102-8-19**] 03:30 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-8-19**] 08:00 AM
   Infusions:
   Heparin Sodium - 2,800 units/hour
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 2.2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2102-8-19**] 01:30 AM
   Midazolam (Versed) - [**2102-8-19**] 03:30 AM
   Fentanyl - [**2102-8-19**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-19**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 86 (81 - 122) bpm
   BP: 99/57(71) {96/57(71) - 107/60(75)} mmHg
   RR: 19 (17 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 19 (17 - 19)mmHg
   Mixed Venous O2% Sat: 85 - 85
   Total In:
                                                                  3,731 mL
                                                                  5,631 mL
   PO:
   TF:
   IVF:
                                                                    731 mL
                                                                  5,631 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    625 mL
   Urine:
                                                                    400 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,331 mL
                                                                  5,006 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 90%
   RSBI Deferred: FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 28 cmH2O
   SpO2: 95%
   ABG: 7.22/64/92.[**Numeric Identifier 132**]/26/-2
   Ve: 10.4 L/min
   PaO2 / FiO2: 103
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   14.7 g/dL
   261 K/uL
   152 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.6 mEq/L
   26 mg/dL
   111 mEq/L
   147 mEq/L
   46.0 %
   32.9 K/uL
        [image002.jpg]
                             [**2102-8-18**]  11:44 PM
                             [**2102-8-19**]  04:00 AM
                             [**2102-8-19**]  04:46 AM
                             [**2102-8-19**]  04:49 AM
                             [**2102-8-19**]  06:44 AM
   WBC
   32.9
   Hct
   46.0
   Plt
   261
   Cr
   1.0
   TropT
   <0.01
   TCO2
   32
   29
   28
   Glucose
   147
   167
   152
   Other labs: PT / PTT / INR:12.9/115.4/1.1, CK / CKMB /
   Troponin-T:138/4/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/14, Differential-Neuts:94.0 %, Band:2.0 %,
   Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:2.9 mmol/L, LDH:324
   IU/L, Ca++:7.7 mg/dL, Mg++:1.4 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   A/P:
   51 y/o with hypoxemic + hypercapnic respiratory failure, shock, fever;
   suspect pna + sepsis though acuity and prodrome not entirely
   consistent.
   Resp failure: ddx includes pna / aspiration, PE (acute onset, recent
   immobility), superimposed on ?underlying morbid obesity / obesity
   hypoventilation.  Suspicion of PE remains at least moderate despite neg
   CTA - obtain LENIs and empiric anticoagulation.  Though not HCAP, given
   recent antibiotics and severe acute illness, cover broadly
 Vanc /
   Zosyn for now.  Given morbid obesity, try increasing PEEP, keep upright
   may improve sats and gas exchange.
   Shock: septic shock +/- ?component of cardiogenic shock, given RV
   strain on EKG (though flat trop and no central PE), and ST depression
   more likely demand / rate related, but will need to follow.  Aggressive
   IVF, s/p central line
 check CVP, ScVO2; echo, follow cardiac enzymes.
   Source of sepsis: pna, ?LE cellulitis, ?other.  Sputum, blood, urine
   cx, follow leg exam.  Given N/V
 though benign abd exam
 check
   [**Doctor First Name **]/lip/LFTs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-8-18**] 11:59 PM
   Multi Lumen - [**2102-8-19**] 01:40 AM
   Arterial Line - [**2102-8-19**] 03:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2102-08-20 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2102-8-19**] 09:32 AM
   Lenis
 TRANS ESOPHAGEAL ECHO - At [**2102-8-19**] 10:33 AM
 BLOOD CULTURED - At [**2102-8-20**] 06:01 AM
   from art line
 FEVER - 101.4
F - [**2102-8-19**] 12:00 PM
   - CTA could not rule out subsegmentla PE [**2-27**] study quality and possible
   aspiration
   - LENI pre-lim showed no DVT, though final read pending
   - Echo showed hyerdymanic LV with no RV strain
   - 3rd set of cardiac enzymes stable
   - Nutrition consulted for tubfeed recs. Not started yet.
   - Grew [**1-29**] gram + cocci in long chains. Given flank pain and pustular
   rash on legs worried for abdominal process or nec fasc. Got CT of abd
   and legs and pre-lim read showed no acute process. Got w/o contrast
   because did not want to give another dye load so close to CTA.
   - Febrile. Tried to control temp with tylenol.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-8-19**] 08:07 PM
   Clindamycin - [**2102-8-20**] 12:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-20**] 02:25 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Fentanyl - [**2102-8-19**] 04:22 PM
   Other medications:
   Acetaminophen 2. Bisacodyl 3. Calcium Gluconate 4. Chlorhexidine
   Gluconate 0.12% Oral Rinse 5. Clindamycin
   6. Docusate Sodium (Liquid) 7. Famotidine 8. Fentanyl Citrate 9.
   Heparin 10. Insulin 11. Magnesium Sulfate
   12. Miconazole Powder 2% 13. Midazolam 14. Phenylephrine 15.
   Piperacillin-Tazobactam 16. Senna 17. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: per sister, in room, no continued abdominal pain
   Flowsheet Data as of  [**2102-8-20**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.8
C (100.1
   HR: 92 (78 - 92) bpm
   BP: 114/55(75) {90/43(59) - 140/90(97)} mmHg
   RR: 26 (19 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 14 (7 - 19)mmHg
   Total In:
                                                                  8,417 mL
                                                                    416 mL
   PO:
   TF:
   IVF:
                                                                  7,467 mL
                                                                    416 mL
   Blood products:
   Total out:
                                                                  2,045 mL
                                                                    420 mL
   Urine:
                                                                  2,045 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,372 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 40 cmH2O
   Plateau: 29 cmH2O
   SpO2: 93%
   ABG: 7.42/43/76.[**Numeric Identifier 126**]/24/2
   Ve: 12.9 L/min
   PaO2 / FiO2: 127
   Physical Examination
   Gen: NAD, opens eyes to voice and responds to commands, obsese
   CV: tachycardic, RR, nl s1/s2 no murmurs
   Pulm: CTA b/l from ant
   Abd: +BS, soft, NT, ND, obese
   Ext: left LE +erythema, +warmth, right 1^st toe erythematous with
   purulent d/c
   Labs / Radiology
   194 K/uL
   13.0 g/dL
   108 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.1 mEq/L
   22 mg/dL
   114 mEq/L
   144 mEq/L
   41.5 %
   19.1 K/uL
        [image002.jpg]
                             [**2102-8-19**]  04:49 AM
                             [**2102-8-19**]  06:44 AM
                             [**2102-8-19**]  10:16 AM
                             [**2102-8-19**]  10:29 AM
                             [**2102-8-19**]  12:05 PM
                             [**2102-8-19**]  05:07 PM
                             [**2102-8-19**]  05:16 PM
                             [**2102-8-19**]  09:31 PM
                             [**2102-8-20**]  05:07 AM
                             [**2102-8-20**]  05:17 AM
   WBC
   32.9
   19.1
   Hct
   46.0
   45.1
   41.5
   Plt
   261
   194
   Cr
   1.0
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   28
   28
   29
   29
   28
   29
   Glucose
   152
   108
   Other labs: PT / PTT / INR:14.2/86.9/1.2, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:1.5 mmol/L, LDH:324
   IU/L, Ca++:6.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   Imaging: CTA and LE U/S final reads pending
   CXR today:
   The ET tube is 5 cm above the carina. There is mild cardiomegaly.
   There is prominent vasculature bilaterally, some patchy areas of
   alveolar
   infiltrate. This may represent fluid overload which is slightly
   worsened
   compared to the film from the prior day.
   Microbiology: viral panel negative
   blood 7/24--26 pending
   sptum [**8-19**] GPC in pairs
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PULMONARY EMBOLISM (PE), ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Assessment and Plan: This is a 51M with HTN, OSA, morbid obesity now
   with acute onset of hypoxic hypercarbic respiratory failure and fever
   with leukocytosis and bandemia.
   #  Hypoxic Hypercarbic Respiratory failure: Pt admitted with acute
   onset of hypoxic hypercarbic respiratory failure in the setting of left
   leg pain and fever which is concerning for PE vs infection/PNA. Acuity,
   low grade fevers, ECG, tachycardia all consistent with PE, however, no
   large PE seen on CTA, no LE DVT on prelim, and no RV strain on echo
   which would expect based on current hemodynamics. Fever to 104 also
   atypical for PE.
   - d/c Heparin gtt; f/u final CTA/ US read
   - empiric abx for now given likely aspiration, possible PNA, although
   more likely acute pneumonitis
   - ABGs after vent changes as has been stable
   - wean to PSV today
   .
   # Hypotension: Likely related to sepsis vs cardiogenic shock as above.
   MAPs currently 60s off of pressors.  CVP at 13.
   - maintain peripheral access
   - IVF boluses prn, can add back neo if needed
   - CEs negative X3
   - hold home antihypertensives
   - TTE showed increased EF,  Due to suboptimal technical quality, a
   focal wall motion abnormality cannot be fully excluded.
   #  Fever, leukocytosis: Fever and leukocytosis with bandemia suggest
   acute onset of infection, however no obvious source other than
   pulmonary vs skin/soft tissue. Would expect to have more subacute
   presentation with ongoing infection rather than acute decompensation
   over hours but fever to 104 and bandemia suggest infectious process.
   Intraabdominal process also concerning given tenderness on exam however
   improved today and prelim negative CT.
   - good response to antibioitics
   - continue (Vanco/Zosyn D1 [**8-19**]) for now guided toward pneumonia vs
   skin infection in pt recently on antibiotics as well as covering
   anaerobes given possible aspiration with zosyn; consider d/c Zosyn
   given sputum and blood ctxs and narrow as appropriately after speciated
   - monitor skin/soft tissue, left leg for signs of infection
   - f/u peripheral smear
   - call radiology to be sure got CT of foot and is not osteo.
   .
   #  Hyperglycemia: Likely related to infection
   - HISS
   .
   # ECG changes: Pt has lateral ST depressions when tachycardic likely
   demand related ischemia since have resolved with rate improvement. Also
   has evidence of right heart strain which may be chronic due to OSA and
   ? pulm HTN
   - repeat ECG today
   - consider cards consult if not improved
   - tachycardia unclear etiology
   ICU Care
   Nutrition: IVF boluses, replete electrolytes, NPO for now ;  diet if
   can be extubated in next 24H
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-8-18**] 11:59 PM
   Multi Lumen - [**2102-8-19**] 01:40 AM
   Arterial Line - [**2102-8-19**] 03:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2B
   VAP:
   Comments:
   Communication:  Comments: patient/wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU pending extubation/BP stabilization

2102-08-20 09:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, GPC bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   LENIS negative, T spike to 101.4
   24 Hour Events:
 ULTRASOUND - At [**2102-8-19**] 09:32 AM
   Lenis
 TRANS ESOPHAGEAL ECHO - At [**2102-8-19**] 10:33 AM
 BLOOD CULTURED - At [**2102-8-20**] 06:01 AM
   from art line
 FEVER - 101.4
F - [**2102-8-19**] 12:00 PM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-20**] 02:25 AM
   Clindamycin - [**2102-8-20**] 08:08 AM
   Vancomycin - [**2102-8-20**] 08:43 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Fentanyl - [**2102-8-19**] 04:22 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Chest pain
   Respiratory: mechanical ventilation
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-8-20**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.8
C (100.1
   HR: 96 (78 - 96) bpm
   BP: 115/53(75) {90/43(59) - 140/90(97)} mmHg
   RR: 23 (19 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 15 (7 - 17)mmHg
   Total In:
                                                                  8,417 mL
                                                                    900 mL
   PO:
   TF:
   IVF:
                                                                  7,467 mL
                                                                    835 mL
   Blood products:
   Total out:
                                                                  2,045 mL
                                                                    555 mL
   Urine:
                                                                  2,045 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,372 mL
                                                                    345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   PIP: 42 cmH2O
   Plateau: 27 cmH2O
   SpO2: 92%
   ABG: 7.42/43/76.[**Numeric Identifier 126**]/24/2
   Ve: 12.4 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General Appearance: Overweight / Obese, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, L-sided discomfort
   Extremities: Right: 1+, Left: 1+, Bullous/erythematous lesions on L
   shin
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.0 g/dL
   194 K/uL
   108 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.1 mEq/L
   22 mg/dL
   114 mEq/L
   144 mEq/L
   41.5 %
   19.1 K/uL
         [image002.jpg]
                             [**2102-8-19**]  04:49 AM
                             [**2102-8-19**]  06:44 AM
                             [**2102-8-19**]  10:16 AM
                             [**2102-8-19**]  10:29 AM
                             [**2102-8-19**]  12:05 PM
                             [**2102-8-19**]  05:07 PM
                             [**2102-8-19**]  05:16 PM
                             [**2102-8-19**]  09:31 PM
                             [**2102-8-20**]  05:07 AM
                             [**2102-8-20**]  05:17 AM
   WBC
   32.9
   19.1
   Hct
   46.0
   45.1
   41.5
   Plt
   261
   194
   Cr
   1.0
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   28
   28
   29
   29
   28
   29
   Glucose
   152
   108
   Other labs: PT / PTT / INR:14.2/86.9/1.2, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:1.5 mmol/L, LDH:324
   IU/L, Ca++:6.5 mg/dL, Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   A/P: 51 y/o with hypoxemic + hypercapnic respiratory failure, shock,
   fever.  Possible sources from L leg infection, pneumonia, abdominal
   infection.
   Respiratory failure:  Pt able to have level of support reduced over
   last day.  Cont to work on reducing level of support   D/C heparin gtt.
   Septic shock: Cont vanc/zosyn/clinda.  No evidence of deep leg
   infection.  Mostly likely source appears to be his pneumonia. Off
   pressors
   Pt is critically ill.  Time spent 35 min.
   Other issues per ICU team
   ICU Care
   Nutrition:
   Comments: start tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-8-18**] 11:59 PM
   Multi Lumen - [**2102-8-19**] 01:40 AM
   Arterial Line - [**2102-8-19**] 03:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-08-21 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2102-8-20**] 11:02 PM
 FEVER - 101.4
F - [**2102-8-20**] 08:00 AM
   -stopped Heparin gtt
   -continued antibiotics
   -R 1st toe no osteo on CT
   -repeat EKG improved depresions but still present; repeat at 11pm still
   with elevations in aVR but otherwise improving depressions
   -switched back to AC
   -tube feeds started
   -ctxs drawn in am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2102-8-21**] 12:03 AM
   Vancomycin - [**2102-8-21**] 12:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-21**] 01:58 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-8-20**] 08:14 PM
   Midazolam (Versed) - [**2102-8-21**] 04:00 AM
   Fentanyl - [**2102-8-21**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-21**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.1
C (98.7
   HR: 84 (84 - 102) bpm
   BP: 116/56(76) {89/45(65) - 157/94(111)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 9 (9 - 351)mmHg
   Total In:
                                                                  3,067 mL
                                                                    951 mL
   PO:
   TF:
                                                                    232 mL
                                                                    317 mL
   IVF:
                                                                  2,610 mL
                                                                    503 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    400 mL
   Urine:
                                                                  1,375 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,692 mL
                                                                    551 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 506 (506 - 580) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 21
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 53 cmH2O
   Plateau: 27 cmH2O
   SpO2: 98%
   ABG: 7.37/50/80.[**Numeric Identifier 176**]/27/1
   Ve: 11 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   171 K/uL
   12.3 g/dL
   135 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   20 mg/dL
   106 mEq/L
   139 mEq/L
   37.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2102-8-19**]  05:16 PM
                             [**2102-8-19**]  09:31 PM
                             [**2102-8-20**]  05:07 AM
                             [**2102-8-20**]  05:17 AM
                             [**2102-8-20**]  01:09 PM
                             [**2102-8-20**]  05:21 PM
                             [**2102-8-20**]  09:38 PM
                             [**2102-8-21**]  01:32 AM
                             [**2102-8-21**]  05:42 AM
                             [**2102-8-21**]  05:58 AM
   WBC
   19.1
   10.9
   Hct
   41.5
   37.9
   Plt
   194
   171
   Cr
   0.7
   0.7
   TCO2
   29
   28
   29
   28
   30
   30
   30
   30
   Glucose
   108
   135
   Other labs: PT / PTT / INR:14.2/86.9/1.2, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:6.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: CT- no evidence of Osteo in L great toe
   Microbiology: [**1-29**] G+ coci in chains from admit cxs, Bcx pending from
   [**7-21**], [**7-22**]
   ECG: Showing resolution of prior ST-depressions
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PULMONARY EMBOLISM (PE), ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Assessment and Plan: This is a 51M with HTN, OSA, morbid obesity now
   with acute onset of hypoxic hypercarbic respiratory failure and fever
   with leukocytosis and bandemia.
   #  Hypoxic Hypercarbic Respiratory failure: Pt admitted with acute
   onset of hypoxic hypercarbic respiratory failure in the setting of left
   leg pain and fever which is concerning for PE vs infection/PNA. Acuity,
   low grade fevers, ECG, tachycardia all consistent with PE, however, no
   large PE seen on CTA, no LE DVT on prelim, and no RV strain on echo
   which would expect based on current hemodynamics. Fever to 104 also
   atypical for PE.
   - d/c Heparin gtt; f/u final CT A/P non-con shows NG tube side port
   above GE junction, inguinal reactive LN, and benign lesion at femoral
   diaphysis.
   - empiric abx for now given likely aspiration, possible PNA, although
   more likely acute pneumonitis
   - Changed to AC.  Attempt PSV again today after rest.
   # Hypotension: Likely related to sepsis vs cardiogenic shock as above.
   MAPs currently 60s off of pressors.  CVP at 13.
   - maintain peripheral access
   - IVF boluses prn, can add back neo if needed
   - CEs negative X3
   - hold home antihypertensives
   - TTE showed increased EF,  Due to suboptimal technical quality, a
   focal wall motion abnormality cannot be fully excluded.
   #  Fever, leukocytosis: Fever and leukocytosis with bandemia suggest
   acute onset of infection, however no obvious source other than
   pulmonary vs skin/soft tissue. Would expect to have more subacute
   presentation with ongoing infection rather than acute decompensation
   over hours but fever to 104 and bandemia suggest infectious process.
   Intraabdominal process also concerning given tenderness on exam however
   improved today and prelim negative CT.
   - good response to antibioitics
   - continue (Vanco/Zosyn D1 [**8-19**]) for now guided toward pneumonia vs
   skin infection in pt recently on antibiotics as well as covering
   anaerobes given possible aspiration with zosyn;
   - monitor skin/soft tissue, left leg for signs of infection
   - f/u peripheral smear
   - CT of foot is not osteo per radiology
   #  Hyperglycemia: Likely related to infection
   - HISS
   # ECG changes: Pt has lateral ST depressions when tachycardic likely
   demand related ischemia since have resolved with rate improvement. Also
   has evidence of right heart strain which may be chronic due to OSA and
   ? pulm HTN
   - consider cards consult if not improved
   - tachycardia unclear etiology
   ICU Care
   Nutrition:
   Replete (Full) - [**2102-8-20**] 12:38 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2102-8-18**] 11:59 PM
   Multi Lumen - [**2102-8-19**] 01:40 AM
   Arterial Line - [**2102-8-19**] 03:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-08-21 09:58:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2102-8-20**] 11:02 PM
 FEVER - 101.4
F - [**2102-8-20**] 08:00 AM
   Vent manipulations, CT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-8-21**] 12:34 AM
   Clindamycin - [**2102-8-21**] 08:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-21**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-8-20**] 08:14 PM
   Midazolam (Versed) - [**2102-8-21**] 04:00 AM
   Fentanyl - [**2102-8-21**] 04:00 AM
   Other medications:
   H2B, SQI, zosyn, versed, fent, CHG, clinda, SQH, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-21**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 80 (80 - 102) bpm
   BP: 121/57(76) {89/45(65) - 157/94(111)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 11 (9 - 351)mmHg
   Total In:
                                                                  3,067 mL
                                                                  1,400 mL
   PO:
   TF:
                                                                    232 mL
                                                                    435 mL
   IVF:
                                                                  2,610 mL
                                                                    785 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    500 mL
   Urine:
                                                                  1,375 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,692 mL
                                                                    900 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 506 (506 - 580) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 21
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 43 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.40/45/73.[**Numeric Identifier 218**]/27/1
   Ve: 11.2 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: coarse breath sounds throughout
   Abdominal: Soft, Obese
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   171 K/uL
   135 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   20 mg/dL
   106 mEq/L
   139 mEq/L
   37.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2102-8-19**]  09:31 PM
                             [**2102-8-20**]  05:07 AM
                             [**2102-8-20**]  05:17 AM
                             [**2102-8-20**]  01:09 PM
                             [**2102-8-20**]  05:21 PM
                             [**2102-8-20**]  09:38 PM
                             [**2102-8-21**]  01:32 AM
                             [**2102-8-21**]  05:42 AM
                             [**2102-8-21**]  05:58 AM
                             [**2102-8-21**]  07:53 AM
   WBC
   19.1
   10.9
   Hct
   41.5
   37.9
   Plt
   194
   171
   Cr
   0.7
   0.7
   TCO2
   28
   29
   28
   30
   30
   30
   30
   29
   Glucose
   108
   135
   Other labs: PT / PTT / INR:14.2/86.9/1.2, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:6.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR - limited
   CT - no clear osteo, no clear major soft tissue abnormalities, probably
   benign bone finding
   Microbiology: GPCs in chains in anaerobic bottle
   Assessment and Plan
   51-year-old man with respiratory failure and GPC bacteremia c/b septic
   shock (shock now resolved).
   Bacteremia / Sepsis (GPCs in long chains)
   Source is most likely from cellulitis.  There is no clinical or imaging
   evidence for necrotizing fasciitis or gas-forming organisms.
   -          Shock now resolved
   -          continue present antibiotics awaiting speciation and
   sensitivities
   -          mark cellulitis extent and follow clinically
   -          maintain vigilance for other sources
   o         pneumonia is possible but there is no microbiologic source so
   far
   o         maintain vigilance for endocarditis
   Respiratory failure
   Wean PEEP today
   [**Month (only) 51**] be a reasonable candidate for early tracheostomy depending on
   progress, given challenging intubation and habitus.
   Advance ETT
   Access
   -          PICC eval today
   -          Apply clip to CVL
   Other issues per ICU team
   ICU Care
   Nutrition:
   Replete (Full) - [**2102-8-20**] 12:38 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-8-19**] 01:40 AM
   Arterial Line - [**2102-8-19**] 03:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   15:50
   BCx growing Streptococcus dysgalactiae spp. equisimilis.  Although
   probably just a cellulitis pathogen, will consult ID since relatively
   uncommon pathogen.
   Case discussed with ED attending who cared for Mr. [**Known lastname 7385**]: intubation
   was a controlled fiber-optic nasal intubation, rather than a
   progression down the difficult airway protocol.
   Also met with pt
s wife to review current events, our interpretation of
   his status, and anticipated course over the next week or so.  In
   particular, we discussed the potential indications for tracheostomy
   given challenging intubation, depending on how things go over the next
   several days.  All questions answered.
   35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2102-8-21**] 03:55 PM ------

2102-08-22 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PSV through day. Switched back to AC for patient comfort in PM.
   -ET and OG tubes advanced, repeat CXR showed ETT 3.6 cm above carina
   -PICC attempted, not in correct position, will be repositioned by IR in
   AM.  Meanwhile, triple lumen CVC used as access
   -ID: beta-STREPTOCOCCUS DYSGALACTIAE SSP. EQUISIMILIS growing, use
   unasyn (D1 [**8-21**]).  D/C vanco and zosyn.  Cont. clinda.
   -SW consult ordered to establish support for family considering
   potential need for trach
   -Podiatrist has cx of paronychial inf, call in AM: [**Telephone/Fax (1) 9082**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-21**] 02:00 PM
   Vancomycin - [**2102-8-21**] 04:00 PM
   Clindamycin - [**2102-8-22**] 12:56 AM
   Ampicillin - [**2102-8-22**] 04:39 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 45 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-8-21**] 08:28 PM
   Midazolam (Versed) - [**2102-8-22**] 05:08 AM
   Fentanyl - [**2102-8-22**] 05:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-22**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 101 (80 - 109) bpm
   BP: 162/82(108) {93/51(73) - 165/106(117)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 12 (11 - 13)mmHg
   Total In:
                                                                  3,470 mL
                                                                  1,056 mL
   PO:
   TF:
                                                                  1,220 mL
                                                                    465 mL
   IVF:
                                                                  1,610 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    760 mL
   Urine:
                                                                  2,000 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,470 mL
                                                                    296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 513 (496 - 513) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 21 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 93%
   ABG: 7.34/60/73.[**Numeric Identifier 218**]/31/3
   Ve: 12.6 L/min
   PaO2 / FiO2: 104
   Physical Examination
   Gen-Alert to voice, interactive, answering questions
   HEENT-R IJ line in place, No JVD
   Pulm-B/L symmetric lung expansion and coarse BS anteriorly
   CV- S1/S2 w/o MGR
   Abd- obese, soft, NTND. +BS.
   Ext-LLE erythema appears minimally decreased from yesterday with
   increased blistering within erythematous region. R great toe again
   swollen/erythematous, unchanged from yesterday.  No LE edema.
   Labs / Radiology
   150 K/uL
   12.9 g/dL
   107 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   12 mg/dL
   103 mEq/L
   141 mEq/L
   39.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2102-8-21**]  01:32 AM
                             [**2102-8-21**]  05:42 AM
                             [**2102-8-21**]  05:58 AM
                             [**2102-8-21**]  07:53 AM
                             [**2102-8-21**]  11:43 AM
                             [**2102-8-21**]  11:55 AM
                             [**2102-8-21**]  06:05 PM
                             [**2102-8-22**]  01:04 AM
                             [**2102-8-22**]  03:49 AM
                             [**2102-8-22**]  06:02 AM
   WBC
   10.9
   10.2
   Hct
   37.9
   37.6
   39.4
   Plt
   171
   150
   Cr
   0.7
   0.6
   TCO2
   30
   30
   29
   31
   32
   32
   34
   Glucose
   135
   107
   Other labs: PT / PTT / INR:11.3/30.7/0.9, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR: ETT appropriate height above carina, R IJ CVC in place in
   the SVC.  Smaller lung volumes compared to previous, maybe due to
   exhalation phase.
   Microbiology: Bx [**8-19**], [**8-20**] pending
   Sputum [**8-19**] shows sparse oropharyngeal flora
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PULMONARY EMBOLISM (PE), ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Assessment and Plan: This is a 51M with HTN, OSA, morbid obesity now
   with acute onset of hypoxic hypercarbic respiratory failure and fever
   with leukocytosis and bandemia.
   #  Hypoxic Hypercarbic Respiratory failure:
   -Hypoxic on FiO2 of 70% and PEEP of 16, raises suspicion for [**Doctor Last Name 11**] vs
   ARDS.
   - Required aggresive suctioning o/n with desats on 100%FiO2, likely due
   to mucus plugs.  Plan to bronch today if mucus plugs are creating
   significant respiratory distress.
   -increase PEEP to recruit and then start to ween PEEP through day.
   Also attempt to decrease FiO2
   - If unable to ween vent settings, consider [**Doctor Last Name 11**] vs ARDS physiology and
   treatment strategy
   #  Fever, leukocytosis: Fever and leukocytosis with bandemia suggest
   acute onset of infection, however no obvious source other than
   pulmonary vs skin/soft tissue. Would expect to have more subacute
   presentation with ongoing infection rather than acute decompensation
   over hours but fever to 104 and bandemia suggest infectious process.
   Intraabdominal process also concerning given tenderness on exam however
   improved today and prelim negative CT.
   - Unasyn for strep spp cultured from blood.  Continue treating until
   LLE erythema clears.
   - monitor skin/soft tissue of LLE, likely cellulitis.  Seems improved
   since yesterday. Re-mark extent of erythema.
   - f/u peripheral smear pending
   -call home podiatrist for cx and sensitivities from R great toe
   parnychial cx.
   #Sedation
   -switch from versed/fentanyl to propofol to decrease impact on
   respiratory drive and long-term sedation effects.
   #Access-PICC placed yesterday not in correct position
   -If stable on FiO2 less than 50%, then consider ok for transport to IR
   -IR this AM for PICC repositioning
   -continue using triple lumen until PICC suitable for use.
   #  Hyperglycemia: controlled on HISS.
   - HISS
   # Hypotension: Likely related to sepsis vs cardiogenic shock as above.
   MAPs currently 60s off of pressors.  CVP at 13.
   - maintain peripheral access
   - IVF boluses prn, can add back neo if needed
   - CEs negative X3
   - hold home antihypertensives
   - TTE showed increased EF,  Due to suboptimal technical quality, a
   focal wall motion abnormality cannot be fully excluded.
   # ECG changes: Pt has lateral ST depressions when tachycardic likely
   demand related ischemia since have resolved with rate improvement. Also
   has evidence of right heart strain which may be chronic due to OSA and
   ? pulm HTN
   - consider cards consult if not improved
   - tachycardia unclear etiology
   ICU Care
   Nutrition:
   Replete (Full) - [**2102-8-21**] 04:06 PM 70 mL/hour Tube feeds
   Glycemic Control:  HISS
   Lines:
   Multi Lumen - [**2102-8-19**] 01:40 AM
   Arterial Line - [**2102-8-19**] 03:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin increased to 7500 SQ daily
check PTT trends
   to avoid therapeutic anticoagulation
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-08-22 09:31:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PICC attempted; CVL resutured.
   PSV --> AC due to dyspnea
   ID consult --> Unasyn / clinda
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-21**] 02:00 PM
   Vancomycin - [**2102-8-21**] 04:00 PM
   Clindamycin - [**2102-8-22**] 12:56 AM
   Ampicillin - [**2102-8-22**] 04:39 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 45 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-8-21**] 08:28 PM
   Fentanyl - [**2102-8-22**] 05:08 AM
   Midazolam (Versed) - [**2102-8-22**] 05:08 AM
   Other medications:
   H2B, bowel, midz, fent, CHG, clinda, SQH, Unasyn, MDIs,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-22**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.2
   HR: 101 (83 - 109) bpm
   BP: 162/82(108) {93/61(78) - 165/106(117)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 12 (11 - 13)mmHg
   Total In:
                                                                  3,470 mL
                                                                  1,171 mL
   PO:
   TF:
                                                                  1,220 mL
                                                                    545 mL
   IVF:
                                                                  1,610 mL
                                                                    366 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    760 mL
   Urine:
                                                                  2,000 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,470 mL
                                                                    411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 513 (496 - 513) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 96%
   ABG: 7.34/60/73.[**Numeric Identifier 218**]/31/3
   Ve: 10.5 L/min
   PaO2 / FiO2: 104
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+, erythema on left leg probably
   decreased
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   12.9 g/dL
   150 K/uL
   107 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.7 mEq/L
   12 mg/dL
   103 mEq/L
   141 mEq/L
   39.4 %
   10.2 K/uL
        [image002.jpg]
                             [**2102-8-21**]  01:32 AM
                             [**2102-8-21**]  05:42 AM
                             [**2102-8-21**]  05:58 AM
                             [**2102-8-21**]  07:53 AM
                             [**2102-8-21**]  11:43 AM
                             [**2102-8-21**]  11:55 AM
                             [**2102-8-21**]  06:05 PM
                             [**2102-8-22**]  01:04 AM
                             [**2102-8-22**]  03:49 AM
                             [**2102-8-22**]  06:02 AM
   WBC
   10.9
   10.2
   Hct
   37.9
   37.6
   39.4
   Plt
   171
   150
   Cr
   0.7
   0.6
   TCO2
   30
   30
   29
   31
   32
   32
   34
   Glucose
   135
   107
   Other labs: PT / PTT / INR:11.3/30.7/0.9, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Microbiology: NGSF
   Assessment and Plan
   51-year-old man with respiratory failure and Streptococcus dysgalactiae
   sepsis.
   Bacteremia / Sepsis (GPCs in long chains)
          Appreciate ID
s help.
          There is no clinical or imaging evidence for necrotizing
   fasciitis or gas-forming organisms.
          Follow cellulitis follow clinically
          Maintain vigilance for other sources
          Unasyn / clinda
   Respiratory failure
   Quite hypoxemic.  Suspect much of this is derecruitment / supine
   position.
   Try to sit him up today and given transiently higher PEEP for
   recruitment.  If unable to come down on FiO2 today, will manage as if
   for ARDS
   Access
   RIJ secured
   If able to get down on FiO2 today
 PICC in IR.
   Otherwise, will need to consider resiting line.
   Other issues per ICU team
   ICU Care
   Nutrition: on TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-8-19**] 01:40 AM
   Arterial Line - [**2102-8-19**] 03:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin.  Increased to 7500 units per dose (given
   body size) and follow PTT.
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: Discussed with mother yesterday.
   [**Name2 (NI) 36**] status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-08-23 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2102-8-22**] 02:08 PM
 MULTI LUMEN - STOP [**2102-8-23**] 05:12 AM
   - PIC replaced and working well. Tripple lumen removed
   - ID would like 14 days of unasyn
   - Sedation changed to propofol
   - FIO2 weaned to 50%
   - Pt hypertensive. Started Metoprolol and Captopril
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-21**] 02:00 PM
   Vancomycin - [**2102-8-21**] 04:00 PM
   Clindamycin - [**2102-8-23**] 12:49 AM
   Ampicillin - [**2102-8-23**] 06:20 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2102-8-22**] 06:15 PM
   Heparin Sodium (Prophylaxis) - [**2102-8-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-23**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 88 (85 - 101) bpm
   BP: 161/89(111) {112/64(85) - 244/235(338)} mmHg
   RR: 26 (18 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 16 (16 - 17)mmHg
   Total In:
                                                                  3,603 mL
                                                                  1,223 mL
   PO:
   TF:
                                                                  2,172 mL
                                                                    521 mL
   IVF:
                                                                    871 mL
                                                                    502 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    765 mL
   Urine:
                                                                  2,690 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    913 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 91%
   ABG: 7.41/53/73.[**Numeric Identifier 218**]/30/6
   Ve: 11.2 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Gen- AOx 3, interactive
   HEENT- supple, no JVD
   Pulm- B/L coarse BS, no wheeze/rales
   CV-S1/S2 no MGR
   Abd- obese, soft, +BS
   Ext-LLE cellulitis mild improvement, L inguinal erythema non-indurated,
   R great toe unchanged erythema and swelling.  Tr LE edema B/L.
   Labs / Radiology
   177 K/uL
   12.7 g/dL
   123 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   11 mg/dL
   103 mEq/L
   141 mEq/L
   38.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2102-8-21**]  11:55 AM
                             [**2102-8-21**]  06:05 PM
                             [**2102-8-22**]  01:04 AM
                             [**2102-8-22**]  03:49 AM
                             [**2102-8-22**]  06:02 AM
                             [**2102-8-22**]  12:09 PM
                             [**2102-8-22**]  04:19 PM
                             [**2102-8-22**]  05:23 PM
                             [**2102-8-23**]  01:22 AM
                             [**2102-8-23**]  02:18 AM
   WBC
   10.2
   9.7
   Hct
   39.4
   38.0
   Plt
   150
   177
   Cr
   0.6
   0.6
   TCO2
   31
   32
   32
   34
   34
   28
   32
   35
   Glucose
   107
   123
   Other labs: PT / PTT / INR:12.0/28.6/1.0, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: ETT at 6cm above carina, PICC line in SVC. Patchy
   infiltrates B/L
   Microbiology: C Diff [**8-22**] neg
   BCx [**8-19**], [**8-20**] pending
   BCx [**8-18**] grew strep spp.
   Assessment and Plan
 HYPERTENSION, BENIGN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 IMPAIRED SKIN INTEGRITY
 PNEUMONIA, ASPIRATION
 PULMONARY EMBOLISM (PE), ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Assessment and Plan: This is a 51M with HTN, OSA, morbid obesity now
   with acute onset of hypoxic hypercarbic respiratory failure and fever
   with leukocytosis and bandemia.
   #  Hypoxic Hypercarbic Respiratory failure:
   -Trial SBT this AM, will extubated if SaO2>88%, WOB tolerable, and ABG
   without new acidosis.
   -reposition bed to have more elevation of head
   -give lasix 80mg IV once prior to SBT/extubation
   -call anesthesia for eval in case extubation difficulty and need for
   reintubation.
   # ETT nasotracheal intubation, requiring repositioning
   -Reposition tube this AM
   -consider trach on Friday if unable to extubate today, will c/s IP
   tomorrow
   #  Fever, leukocytosis: Still with low grade fever o/n, no leukocytosis
   - Unasyn [**4-8**]  (D1 [**8-21**]) for strep spp and Clinda d5 (D1 [**8-19**])
   - monitor skin infection and mark
   -call home podiatrist for cx and sensitivities from R great toe
   parnychial cx.
   #Sedation
   -now on propofol, conintue to maintain light sedation
   #  Hyperglycemia: controlled on HISS.
   - HISS
   # Hypertension
   -Increase metoprolol from 25mg NG TID to Metoprolol 50mg NG TID, add
   back home clonidine
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2102-8-22**] 09:50 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2102-8-19**] 03:30 AM
   PICC Line - [**2102-8-22**] 02:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-08-23 11:38:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2102-8-22**] 02:08 PM
 MULTI LUMEN - STOP [**2102-8-23**] 05:12 AM
   PICC line in successfully.
   Anti-hypertensives begun.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-21**] 02:00 PM
   Vancomycin - [**2102-8-21**] 04:00 PM
   Clindamycin - [**2102-8-23**] 12:49 AM
   Ampicillin - [**2102-8-23**] 06:20 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2102-8-22**] 06:15 PM
   Heparin Sodium (Prophylaxis) - [**2102-8-22**] 08:00 PM
   Other medications:
   bowel reg, H2B, sqi, chg, clinda, unasyn, mdi's, sqh, propofol,
   lopressor, captopril
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-23**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 86 (85 - 101) bpm
   BP: 144/83(101) {112/66(89) - 192/153(338)} mmHg
   RR: 24 (18 - 28) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 16 (16 - 16)mmHg
   Total In:
                                                                  3,603 mL
                                                                  1,708 mL
   PO:
   TF:
                                                                  2,172 mL
                                                                    848 mL
   IVF:
                                                                    871 mL
                                                                    661 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    765 mL
   Urine:
                                                                  2,690 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    913 mL
                                                                    943 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 9
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 91%
   ABG: 7.41/53/73.[**Numeric Identifier 218**]/30/6
   Ve: 14 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anterior exam)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm, erythema stable to decreased
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.7 g/dL
   177 K/uL
   123 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.9 mEq/L
   11 mg/dL
   103 mEq/L
   141 mEq/L
   38.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2102-8-21**]  11:55 AM
                             [**2102-8-21**]  06:05 PM
                             [**2102-8-22**]  01:04 AM
                             [**2102-8-22**]  03:49 AM
                             [**2102-8-22**]  06:02 AM
                             [**2102-8-22**]  12:09 PM
                             [**2102-8-22**]  04:19 PM
                             [**2102-8-22**]  05:23 PM
                             [**2102-8-23**]  01:22 AM
                             [**2102-8-23**]  02:18 AM
   WBC
   10.2
   9.7
   Hct
   39.4
   38.0
   Plt
   150
   177
   Cr
   0.6
   0.6
   TCO2
   31
   32
   32
   34
   34
   28
   32
   35
   Glucose
   107
   123
   Other labs: PT / PTT / INR:12.0/28.6/1.0, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   51-year-old man with respiratory failure and Streptococcus dysgalactiae
   sepsis.
   Bacteremia / Sepsis (GPCs in long chains)
          Appreciate ID
s help.
          There is no clinical or imaging evidence for necrotizing
   fasciitis or gas-forming organisms.
          Follow cellulitis follow clinically
          Maintain vigilance for other sources
          Unasyn x 2 weeks / clinda per ID
   Respiratory failure
          Substantively improved
          We have moved to an SBT and he is able to pull > one liter
   on PSV 5 though sats are ~90%.
          Lasix now
          PT consult called.
   Access
          PICC
   Other issues per ICU team
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2102-8-22**] 09:50 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2102-8-19**] 03:30 AM
   PICC Line - [**2102-8-22**] 02:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill
   ------ Protected Section ------
   ADDENDUM
   Seen multiple times throughout day.  Did well with SBT; able to pull
   >1000 Vt on PSV 5.  Although relatively hypoxemic, we elected to
   extubate due to excellent mental status, good ventilation, and
   likelihood that he has relatively chronic hypoxemia.  Airway assessed
   with anesthesia staff:  exam and history of multiple successful
   intubations do not predict overly difficult reintubation (though risk
   of course exists).  Throughout the day, able to maintain sats 88-90%.
   Out to chair (!) with physical therapy.  All questions of patient and
   wife answered.
   40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2102-8-23**] 17:57 ------

2102-08-24 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-8-23**] 02:23 PM
   -extubated, gas 7.44/55/87
   -seen by PT
   -given lasix; neg 3L at [**2093**], repleted lytes
   -One episode of desaturation o/n when he got out of bed to go to the
   bathroom
   -ID wants 2wk coarse Unasyn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-21**] 02:00 PM
   Vancomycin - [**2102-8-21**] 04:00 PM
   Clindamycin - [**2102-8-23**] 11:39 PM
   Ampicillin - [**2102-8-24**] 05:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2102-8-23**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-8-24**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-24**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.3
   HR: 89 (86 - 100) bpm
   BP: 139/81(99) {123/72(88) - 187/112(136)} mmHg
   RR: 25 (18 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,513 mL
                                                                    341 mL
   PO:
                                                                    260 mL
                                                                    100 mL
   TF:
                                                                    899 mL
   IVF:
                                                                  1,154 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  5,530 mL
                                                                    935 mL
   Urine:
                                                                  5,530 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,017 mL
                                                                   -594 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 640 (640 - 640) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 25 cmH2O
   SpO2: 94%
   ABG: 7.40/61/77.[**Numeric Identifier 143**]/30/9
   Ve: 13 L/min
   PaO2 / FiO2: 82
   Physical Examination
   Gen-AOx3, NAD
   HEENT- supple, no JVD
   Pulm- end-exp rhonchi b/l, no rales/wheezes
   CV- S1/S2 no MGR
   Abd- obese, soft, NTND
   Ext- LLE erythema appears unchanged from yesterday.  Tr LE edema.
   Labs / Radiology
   218 K/uL
   13.4 g/dL
   103 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   13 mg/dL
   104 mEq/L
   144 mEq/L
   42.4 %
   11.6 K/uL
        [image002.jpg]
                             [**2102-8-22**]  05:23 PM
                             [**2102-8-23**]  01:22 AM
                             [**2102-8-23**]  02:18 AM
                             [**2102-8-23**]  01:29 PM
                             [**2102-8-23**]  04:34 PM
                             [**2102-8-23**]  04:47 PM
                             [**2102-8-23**]  08:17 PM
                             [**2102-8-23**]  11:39 PM
                             [**2102-8-24**]  03:24 AM
                             [**2102-8-24**]  04:07 AM
   WBC
   9.7
   11.6
   Hct
   38.0
   42.4
   Plt
   177
   218
   Cr
   0.6
   0.7
   0.5
   TCO2
   32
   35
   37
   39
   37
   37
   39
   Glucose
   123
   128
   103
   Other labs: PT / PTT / INR:12.0/28.6/1.0, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: PICC in place.  Increased lung volumes B/L, RLL w/
   infiltrate with airbronchograms.
   Microbiology: C Diff [**8-22**] neg
   BCx [**8-20**], [**8-21**] pending
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 OBSTRUCTIVE SLEEP APNEA (OSA)
 CELLULITIS
   Assessment and Plan: This is a 51M with HTN, OSA, morbid obesity now
   with acute onset of hypoxic hypercarbic respiratory failure and fever
   with leukocytosis and bandemia.
   #  Hypoxic Hypercarbic Respiratory failure: extubated yesterday, BIPAP
   overnight, with one episode of desaturation overnight.
   -Continue to monitor SaO2
   -BIPAP at night, talk to pt why he did not use BIPAP o/n
   -RT to work with BIPAP settings for pt comfort
   -IS
   -home dose lasix
   -PT to ambulate
   #  Fever, leukocytosis: WBC 11.6 today up from 9.7 yesterday. No fevers
   o/n.
   - Unasyn [**7-9**]  (D1 [**8-18**]) for strep spp ,
   -no toxic sx, d/c clinda per ID
   - monitor skin infection and mark
   -call home podiatrist for cx and sensitivities from R great toe
   parnychial cx.
   #  Hyperglycemia: controlled on HISS. BG well controlled o/n.
   - HISS
   # Hypertension: better controlled last 24 hrs.  On metoprolol and
   captopril
   -Continue with these meds.
   ICU Care
   Nutrition:
   Regular diet
   Glycemic Control:  HISS
   Lines:
   Arterial Line - [**2102-8-19**] 03:30 AM
   PICC Line - [**2102-8-22**] 02:08 PM
   Prophylaxis:
   DVT:  SQ heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, possible c/o tomorrow

2102-08-24 10:09:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: resp failure, severe sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated.
   Diuresed.
   Episode of desaturation overnight when he got out of bed to use
   bathroom.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-8-21**] 02:00 PM
   Vancomycin - [**2102-8-21**] 04:00 PM
   Ampicillin - [**2102-8-24**] 05:45 AM
   Clindamycin - [**2102-8-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2102-8-23**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-8-24**] 04:10 AM
   Other medications:
   H2B, SQI, clinda, unasyn, SQH, captopril, colace, lopressor,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-24**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 89 (85 - 100) bpm
   BP: 152/86(106) {123/72(88) - 187/112(136)} mmHg
   RR: 19 (18 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,513 mL
                                                                    420 mL
   PO:
                                                                    260 mL
                                                                    100 mL
   TF:
                                                                    899 mL
   IVF:
                                                                  1,154 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  5,530 mL
                                                                  1,075 mL
   Urine:
                                                                  5,530 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,017 mL
                                                                   -655 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 640 (640 - 640) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 95%
   SpO2: 94%
   ABG: 7.40/61/77.[**Numeric Identifier 143**]/30/9
   Ve: 13 L/min
   PaO2 / FiO2: 82
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+ edema, Left: 1+ edema, erythema and blistering
   mostly stable
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   13.4 g/dL
   218 K/uL
   103 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   13 mg/dL
   104 mEq/L
   144 mEq/L
   42.4 %
   11.6 K/uL
        [image002.jpg]
                             [**2102-8-22**]  05:23 PM
                             [**2102-8-23**]  01:22 AM
                             [**2102-8-23**]  02:18 AM
                             [**2102-8-23**]  01:29 PM
                             [**2102-8-23**]  04:34 PM
                             [**2102-8-23**]  04:47 PM
                             [**2102-8-23**]  08:17 PM
                             [**2102-8-23**]  11:39 PM
                             [**2102-8-24**]  03:24 AM
                             [**2102-8-24**]  04:07 AM
   WBC
   9.7
   11.6
   Hct
   38.0
   42.4
   Plt
   177
   218
   Cr
   0.6
   0.7
   0.5
   TCO2
   32
   35
   37
   39
   37
   37
   39
   Glucose
   123
   128
   103
   Other labs: PT / PTT / INR:12.0/28.6/1.0, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: somewhat increased opacity at right base.  Hard to see
   PICC termination.
   Assessment and Plan
   51-year-old man with respiratory failure (extubated yesterday) and
   Streptococcus dysgalactiae sepsis. Still quite hypoxemic.
   Bacteremia / Sepsis (Streptococcus dysgalactiae)
          Appreciate ID
s help.
          There is no clinical or imaging evidence for necrotizing
   fasciitis or gas-forming organisms.
          Follow cellulitis clinically
          Unasyn x 2 weeks / discontinue clinda per ID
   Respiratory failure / hypoxemia
          Substantively improved but still quite hypoxemic
          Lasix now for goal about negative one liter
          PT / incentive spirometry / out of bed
          Maintain in ICU given quite high FiO2 requirements
   Sleep apnea (and ?obesity-hypoventilation syndrome)
          Discuss reasons for declining bipap
          Try autoset vs. empiric adjustment
          Introduce mask during day
   CXR abnormality
          Not totally clear to me if this represents a pneumonia
          Hold on additional antibiotics for now
          If respikes or decompensates, cover for nosocomial pneumonia
   Access
          PICC
          Leave art line in today; d/c tomorrow if stable
   Other issues per ICU team
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2102-8-19**] 03:30 AM
   PICC Line - [**2102-8-22**] 02:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated --> discontinue
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill

2102-08-25 07:18:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure and cellulitits
   24 Hour Events:
 ARTERIAL LINE - STOP [**2102-8-24**] 08:59 PM
   -PT walked around MICU this afternoon
   -agreed to wear BIPAP o/n
   -meds changed to PO from NG
   -negative 2L with lasix 20mg IV x1 in afternoon
   -attempted bipap, autoset c-pap, regular c-pap, all unsuccessful with
   desats to 82%. Return to high flow mask at 60% with added 6 liters nc
   for sats mid 90
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2102-8-24**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2102-8-24**] 12:00 PM
   Ampicillin - [**2102-8-25**] 05:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2102-8-24**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-8-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-25**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 78 (78 - 96) bpm
   BP: 121/76(85) {115/70(81) - 154/99(108)} mmHg
   RR: 17 (9 - 25) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    963 mL
                                                                    580 mL
   PO:
                                                                    440 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    523 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                    560 mL
   Urine:
                                                                  3,155 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,192 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 89%
   ABG: 7.38/68/90.[**Numeric Identifier 126**]/36/11
   PaO2 / FiO2: 150
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Resp: Crackles, predominant at bases
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Skin:  Warm
   Ext: trace edema in ankles bilaterally, L > R
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   217 K/uL
   13.3 g/dL
   105 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   16 mg/dL
   100 mEq/L
   145 mEq/L
   42.8 %
   9.2 K/uL
        [image002.jpg]
                             [**2102-8-23**]  02:18 AM
                             [**2102-8-23**]  01:29 PM
                             [**2102-8-23**]  04:34 PM
                             [**2102-8-23**]  04:47 PM
                             [**2102-8-23**]  08:17 PM
                             [**2102-8-23**]  11:39 PM
                             [**2102-8-24**]  03:24 AM
                             [**2102-8-24**]  04:07 AM
                             [**2102-8-24**]  05:37 PM
                             [**2102-8-25**]  03:54 AM
   WBC
   11.6
   9.2
   Hct
   42.4
   42.8
   Plt
   218
   217
   Cr
   0.7
   0.5
   0.7
   TCO2
   35
   37
   39
   37
   37
   39
   42
   Glucose
   128
   103
   105
   Other labs: PT / PTT / INR:12.0/28.0/1.0, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: No CXR this AM
   Microbiology: BC [**8-19**] and [**8-20**]: No growth to date
   Assessment and Plan
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 OBSTRUCTIVE SLEEP APNEA (OSA)
 CELLULITIS
   Assessment and Plan: This is a 51M with HTN, OSA, morbid obesity now
   with acute onset of hypoxic hypercarbic respiratory failure and fever
   with leukocytosis and bandemia.
   #  Hypoxic Hypercarbic Respiratory failure: extubated yesterday, BIPAP
   overnight, with one episode of desaturation overnight.
   - Sleep study at some point during hospital stay would be beneficial to
   patient.
   - IS, out of bed to chair, pulmonary toilet
   - Lasix 20IV, goal UOP -1L
   - Will get CXR this AM to monitor for fluid overload affecting lungs
    #  Fever, leukocytosis: WBC 11.6 today up from 9.7 yesterday. No
   fevers o/n.
   - Unasyn [**8-8**]  (D1 [**8-18**]) for strep spp
   - Cultures from PCP for toe shows resistance to Ampicillin. Sensitive
   to Clinda. However, only a skin swab and pt was already treated with
   Keflax and Doxy a week prior to presentation. ID does think extra
   treatment needed at this time.
   - monitor skin infection
   #  Hyperglycemia: controlled on HISS. BG well controlled o/n.
   - HISS
   # Hypertension: better controlled last 24 hrs.  On metoprolol and
   captopril
   -Will restart home meds, except Clonidine
   ICU Care
   Nutrition:
   Comments: Cardiac heart healthy diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2102-8-22**] 02:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2102-08-25 10:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Unable tolerate NIPPV setting overnight. Switched back to a high flow
   mask.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2102-8-24**] 08:59 PM
   History obtained from Patient, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2102-8-24**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2102-8-24**] 12:00 PM
   Ampicillin - [**2102-8-25**] 05:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2102-8-24**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-8-25**] 04:00 AM
   Other medications:
   Changes to medical and family history: none
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: No(t) NPO
   Respiratory: Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-8-25**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 91 (78 - 96) bpm
   BP: 138/82(91) {115/70(81) - 154/99(108)} mmHg
   RR: 21 (9 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    963 mL
                                                                    820 mL
   PO:
                                                                    440 mL
                                                                    470 mL
   TF:
   IVF:
                                                                    523 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  3,155 mL
                                                                    740 mL
   Urine:
                                                                  3,155 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,192 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.38/68/90.[**Numeric Identifier 126**]/36/11
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   13.3 g/dL
   217 K/uL
   105 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   16 mg/dL
   100 mEq/L
   145 mEq/L
   42.8 %
   9.2 K/uL
        [image002.jpg]
                             [**2102-8-23**]  02:18 AM
                             [**2102-8-23**]  01:29 PM
                             [**2102-8-23**]  04:34 PM
                             [**2102-8-23**]  04:47 PM
                             [**2102-8-23**]  08:17 PM
                             [**2102-8-23**]  11:39 PM
                             [**2102-8-24**]  03:24 AM
                             [**2102-8-24**]  04:07 AM
                             [**2102-8-24**]  05:37 PM
                             [**2102-8-25**]  03:54 AM
   WBC
   11.6
   9.2
   Hct
   42.4
   42.8
   Plt
   218
   217
   Cr
   0.7
   0.5
   0.7
   TCO2
   35
   37
   39
   37
   37
   39
   42
   Glucose
   128
   103
   105
   Other labs: PT / PTT / INR:12.0/28.0/1.0, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:93.4 %, Band:2.0 %,
   Lymph:4.1 %, Mono:1.6 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   51 yo man with ARDS/septic shock in setting of staphylococcal lower
   extremity infection.  Now extubated with with ongoing high FIO2
   requirement.
   1. Repsiratory Failure: Ongoing hypoxemia - did not tolerate NIPPV
   overnight.  Will hold off on trying further until his current hypoxemia
   improves.  Continue diuresis with goal 1L negative.  CXR today
   2. Lower extremity S. dysgalactiae infection/Toxic Shoch Syndrome:
   Continue [**8-8**] Unasyn
   3. OSA: As above.  Would probable benfit from inpatient sleep eval once
   on the floor.
   Other issues per ICU team
   ICU Care
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2102-8-22**] 02:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-08-26 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - was on high-flow last night, switched to NC this am
   -fever to 100.3 at [**2093**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2102-8-24**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2102-8-24**] 12:00 PM
   Ampicillin - [**2102-8-26**] 06:18 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-8-25**] 11:43 AM
   Furosemide (Lasix) - [**2102-8-25**] 11:43 AM
   Other medications:
   Acetaminophen 6. Albuterol 0.083% Neb Soln 7. Ampicillin-Sulbactam 8.
   Amlodipine
   9. Bisacodyl 10. Captopril 11. Docusate Sodium 12. Furosemide 13.
   Heparin Flush (10 units/ml) 14. Heparin
   15. Heparin Flush (10 units/ml) 16. 17. 18. Ipratropium Bromide Neb 19.
   Lisinopril 20. Metoprolol Tartrate
   21. Miconazole Powder 2% 22. Potassium Chloride 23. Potassium Chloride
   24. Senna 25. Sodium Chloride 0.9% Flush
   26. traZODONE
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no complaints of SOB, feels much better now that
   slept 3 hours last night
   Flowsheet Data as of  [**2102-8-26**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.2
   HR: 89 (80 - 99) bpm
   BP: 147/91(103) {94/59(68) - 148/95(106)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,980 mL
                                                                    504 mL
   PO:
                                                                    950 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    430 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  2,640 mL
                                                                      0 mL
   Urine:
                                                                  2,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -660 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///32/
   Physical Examination
   Gen: NAD, doing IS
   CV: RRR NL s1/s2 no murmurs
   Pulm: crackles right lower lung field
   Abd: obese, +BS, soft, NT, ND
   Ext: trace edema, decreased erythema from margin on LLE but still
   erythematous and warm
   Labs / Radiology
   237 K/uL
   13.0 g/dL
   105 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.7 mEq/L
   18 mg/dL
   100 mEq/L
   142 mEq/L
   41.9 %
   7.0 K/uL
        [image002.jpg]
                             [**2102-8-23**]  04:34 PM
                             [**2102-8-23**]  04:47 PM
                             [**2102-8-23**]  08:17 PM
                             [**2102-8-23**]  11:39 PM
                             [**2102-8-24**]  03:24 AM
                             [**2102-8-24**]  04:07 AM
                             [**2102-8-24**]  05:37 PM
                             [**2102-8-25**]  03:54 AM
                             [**2102-8-25**]  06:31 PM
                             [**2102-8-26**]  06:00 AM
   WBC
   11.6
   9.2
   7.0
   Hct
   42.4
   42.8
   41.9
   Plt
   [**Telephone/Fax (3) 9172**]
   Cr
   0.7
   0.5
   0.7
   0.6
   TCO2
   39
   37
   37
   39
   42
   Glucose
   128
   103
   105
   Other labs: PT / PTT / INR:12.6/31.3/1.1, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:72.5 %, Band:2.0 %,
   Lymph:17.9 %, Mono:7.8 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR [**8-26**]: less cephalization of vasculature but still volume
   overloaded, HO read
   Microbiology: blood ctx [**8-19**] negative, [**8-20**] pending
   Assessment and Plan
 HYPOXEMIA
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 FUNGAL INFECTION, OTHER
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 CELLULITIS
   Assessment and Plan: This is a 51M with HTN, OSA, morbid obesity now
   with acute onset of hypoxic hypercarbic respiratory failure and fever
   with leukocytosis and bandemia.
   #  Hypoxic Hypercarbic Respiratory failure: now without desats o/n
   - Sleep study at some point during hospital stay would be beneficial to
   patient.
   - IS, out of bed to chair, pulmonary toilet
   - goal -2L today (-660 yesterday on 20mg IV X1), pt. on 20mg [**Hospital1 7**] of
   Lasix at home; give 40mg IV Lasix now
   - pm lytes
    #  Fever, leukocytosis: WBC 7.0 trending down, low grade temp o/n
   - Unasyn [**10-16**]  (D1 [**8-18**]) for strep spp; has outpt. ID f/u
   - Cultures from PCP for toe shows resistance to Ampicillin. Sensitive
   to Clinda. However, only a skin swab and pt was already treated with
   Keflax and Doxy a week prior to presentation. ID does think extra
   treatment needed at this time.
   - monitor skin infection
   # Hypertension: better controlled last 24 hrs.  On metoprolol and
   lisinopril
   -cont home meds, except Clonidine; cont lasix
   # Obesity: Pt. motivated to change, possibly with lap-band
   -consult nutrition
   ICU Care
   Nutrition: PO cardiac/heart healthy
   Glycemic Control:
   Lines:
   PICC Line - [**2102-8-22**] 02:08 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: NA
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ? c/o to floor later today

2102-08-27 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -kept in unit because hi-flow o/n for desats consistently to 70s
   -developed florid drug rash-> changed from Unasyn to Clinda and aked
   for sensitivities from lab.  need to call ID first thing in am; sent
   urine eos
   -given another 40mg IV lasix x2 for goal UOP of 2L, neg approx 3L
   -dietary consult
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2102-8-24**] 12:00 PM
   Ampicillin - [**2102-8-26**] 06:24 PM
   Clindamycin - [**2102-8-26**] 11:38 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-8-27**] 05:47 AM
   Furosemide (Lasix) - [**2102-8-27**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-27**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 80 (80 - 111) bpm
   BP: 132/84(94) {103/60(67) - 155/97(103)} mmHg
   RR: 20 (13 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,272 mL
                                                                     56 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    552 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  4,175 mL
                                                                  1,750 mL
   Urine:
                                                                  4,175 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,903 mL
                                                                 -1,694 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 94%
   ABG: ///36/
   Physical Examination
   Gen-AOx3, jovial. NAD
   HEENT- supple, no JVD
   Pulm-CTAB
   CV- S1/S2 w/o MGR
   Abd-obese, soft, NTND.
   Ext- LLE wound appears unchanged from prior
   Skin- centripetal macular rash covering trunk, and extending out on
   limbs.  Pruritic.
   Labs / Radiology
   255 K/uL
   13.0 g/dL
   106 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.9 mEq/L
   18 mg/dL
   102 mEq/L
   145 mEq/L
   41.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2102-8-23**]  08:17 PM
                             [**2102-8-23**]  11:39 PM
                             [**2102-8-24**]  03:24 AM
                             [**2102-8-24**]  04:07 AM
                             [**2102-8-24**]  05:37 PM
                             [**2102-8-25**]  03:54 AM
                             [**2102-8-25**]  06:31 PM
                             [**2102-8-26**]  06:00 AM
                             [**2102-8-26**]  04:40 PM
                             [**2102-8-27**]  03:18 AM
   WBC
   11.6
   9.2
   7.0
   7.4
   Hct
   42.4
   42.8
   41.9
   41.5
   Plt
   [**Telephone/Fax (3) 9181**]55
   Cr
   0.5
   0.7
   0.6
   0.6
   0.6
   0.7
   TCO2
   37
   37
   39
   42
   Glucose
   103
   105
   101
   106
   Other labs: PT / PTT / INR:12.6/31.3/1.1, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:72.5 %, Band:2.0 %,
   Lymph:17.9 %, Mono:7.8 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: no new
   Microbiology: no new
   Assessment and Plan
 RASH
 HYPOXEMIA
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 FUNGAL INFECTION, OTHER
 HYPERTENSION, BENIGN
 OBSTRUCTIVE SLEEP APNEA (OSA)
 CELLULITIS
   Assessment and Plan: This is a 51M with HTN, OSA, morbid obesity now
   with acute onset of hypoxic hypercarbic respiratory failure and fever
   with leukocytosis and bandemia.
   #  Hypoxic Hypercarbic Respiratory failure: now without desats o/n and
   continuing to need high flow O2.
   - Sleep study at some point during hospital stay would be beneficial to
   patient.
   - IS, out of bed to chair, pulmonary toilet
   -Lasix 40mg IV this AM, continue to monitor UOP with goal LOS
   euvolemic.
   -reassess volume status in PM
    #  Strep Bacteremia: drug rash o/n.  D/C unasyn, started clinda
   -Clinda, abx d [**11-15**] for strep spp
   -I/D recs this AM concerning  switch
   - monitor skin infection
   # Hypertension: better controlled last 24 hrs.  On metoprolol and
   lisinopril
   -cont home meds, except Clonidine; cont lasix
   # Obesity: Pt. motivated to change, possibly with lap-band
    -consult nutrition
   ICU Care
   Nutrition:
   Comments: Regular Heart healthy
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2102-8-22**] 02:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: c/o once weaned from high flow O2 at night

2102-08-28 17:12:00 Physician Resident Progress Note
Chief Complaint: 51 y/o male with hx morbid obesity, HTN, HL, OSA
   admitted with LL pain/hypoxia from OSH. CTA did not show PE however
   subsegmental PE was not ruled out. Pt developed LLE cellulitis, started
   on Unasyn but developed drug reaction with change to clindamycin on
   [**2102-8-26**].
   24 Hour Events:
   Pt has been significantly volume overloaded, being diuresed with lasix
   with effect. Met goal diuresis of 3L y/d.
   Pt is much improved, ambulating around MICU with assist. Pt was on CPAP
   autoset all night, maintained sats in 90's, typically desats with his
   home machine.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2102-8-26**] 06:24 PM
   Clindamycin - [**2102-8-28**] 04:36 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-8-28**] 02:00 PM
   Furosemide (Lasix) - [**2102-8-28**] 03:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-8-28**] 05:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 89 (81 - 99) bpm
   BP: 93/78(82) {93/60(75) - 140/86(95)} mmHg
   RR: 24 (16 - 25) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 198.1 kg (admission): 220 kg
   Height: 72 Inch
             Total In:
                                                                    756 mL
                                                                    160 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                    156 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,900 mL
                                                                    900 mL
   Urine:
                                                                  3,900 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,144 mL
                                                                   -740 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Marked edema,redness, non tender LLE
   Skin:  Warm, erythema at L brachial site
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   268 K/uL
   13.2 g/dL
   100 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.3 mEq/L
   19 mg/dL
   102 mEq/L
   142 mEq/L
   42.4 %
   8.5 K/uL
        [image002.jpg]
                             [**2102-8-23**]  11:39 PM
                             [**2102-8-24**]  03:24 AM
                             [**2102-8-24**]  04:07 AM
                             [**2102-8-24**]  05:37 PM
                             [**2102-8-25**]  03:54 AM
                             [**2102-8-25**]  06:31 PM
                             [**2102-8-26**]  06:00 AM
                             [**2102-8-26**]  04:40 PM
                             [**2102-8-27**]  03:18 AM
                             [**2102-8-28**]  04:23 AM
   WBC
   11.6
   9.2
   7.0
   7.4
   8.5
   Hct
   42.4
   42.8
   41.9
   41.5
   42.4
   Plt
   [**Telephone/Fax (3) 9181**]55
   268
   Cr
   0.5
   0.7
   0.6
   0.6
   0.6
   0.7
   0.7
   TCO2
   37
   39
   42
   Glucose
   103
   105
   101
   106
   100
   Other labs: PT / PTT / INR:12.6/31.3/1.1, CK / CKMB /
   Troponin-T:165/6/<0.01, ALT / AST:24/27, Alk Phos / T Bili:57/0.9,
   Amylase / Lipase:30/13, Differential-Neuts:72.5 %, Band:2.0 %,
   Lymph:17.9 %, Mono:7.8 %, Eos:0.4 %, Lactic Acid:0.8 mmol/L, LDH:324
   IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:4.2 mg/dL
   Imaging: last CXR on [**2102-8-26**] showed minimal redistribution in
   upperzone, no overt CHF.
   Assessment and Plan
 HYPOXEMIA:
   Improved, able to maintain sats with ambulation, on CPAP at night.
   Continue diuresis with lasix 40mg IV with goal net -ve 3L today, cont
   to monitor urine output.
   IS/pumonary toilet.
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
   OSA. Will need sleep study as outpatient
   CPAP overnight.
   Pt motivated to change, possibly with lap band.
 FUNGAL INFECTION, OTHER
   Improved on miconazole powder .Continue topical application.
 HYPERTENSION, BENIGN
   BP's ranged 119-140s systolic, pt still volume overloaded likely
   contributing to elevation. Continue lisinopril, metoprolol, amlodipine.
 CELLULITIS:
   Say [**8-8**] of abx total (day 2 ofclindamycin). Pt remains afebrile white
   count has trended down from 11.6 on admission to 8.5 today. Continue to
   follow CBC/diff, serial exams.
   Continuing home meds except clonidine
   ICU Care
   Nutrition:
   Comments: regular heart healthy
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2102-8-22**] 02:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:possible transfer to floor.